US07855297B2
By the reaction and treatment in the same manner as in Example 83 using 5-benzyloxy-N-(6-methoxypyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.94 g) and 2-(chloromethyl)pyridine hydrochloride (0.33 g) as starting materials, 5-benzyloxy-N-(6-methoxypyridin-3-yl)-N-{[1-(2-pyridylmethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.28 g) was obtained. By the reaction and treatment of this compound in the same manner as in Example 139, 5-hydroxy-N-(6-methoxypyridin-3-yl)-N-{[1-(2-pyridylmethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide dihydrochloride (0.085 g) was obtained.

reactant | 5-benzyloxy-N-(6-methoxypyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.94 g | Cl.C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)OC
reactant | 2-(chloromethyl)pyridine hydrochloride | 0.33 g | Cl.ClCC1=NC=CC=C1
product | 5-benzyloxy-N-(6-methoxypyridin-3-yl)-N-{[1-(2-pyridylmethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.28 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)CC1=NC=CC=C1)C=1C=NC(=CC1)OC | C34H33N5O3
